US09375010B2
To a solution of 3-[(Z)-{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one (210 mg, 0.514 mmol, 1 eq) in degased THF (2 mL) was added in a microwave tube under argon tetrakis(triphenylphosphine)palladium (0) (59.4 mg, 0.051 mmol, 0.1 eq), copper iodide (14.6 mg, 0.077 mmol, 0.15 eq) N,N-diisopropylethylamine (0.358 ml, 2.06 mmol, 4 eq) and phenylacetylene (157 mg, 1.54 mmol, 3 eq). The mixture was stirred at room temperature for 2 days. The mixture was concentrated, diluted with ethyl acetate and filtered over a celite cartridge. The solvent was evaporated and the residue was purified by chromatography on silica gel to afford 3-[(Z)-({[2-(cyclopropylethynyl)-1,3-thiazol-4-yl]methoxy}imino)(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one (148 mg, 73% yield).

reactant | 3-[(Z)-{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one | 0.514 mmol, 210 mg, 1 eq | BrC=1SC=C(N1)CO\N=C(/C=1N(OC(N1)=O)C)\C1=CC=CC=C1 | C14H11BrN4O3S
reactant | phenylacetylene | 1.54 mmol, 157 mg, 3 eq | C1(=CC=CC=C1)C#C | C8H6
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.077 mmol, 0.358 ml, 14.6 mg, 0.15 eq | [Cu](I)I
product | 3-[(Z)-({[2-(cyclopropylethynyl)-1,3-thiazol-4-yl]methoxy}imino)(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one | 148 mg, 73% yield | C1(CC1)C#CC=1SC=C(N1)CO\N=C(/C=1N(OC(N1)=O)C)\C1=CC=CC=C1 | C19H16N4O3S
